### PR TITLE
refactor: rename the `diag` name token to `diagonal`

### PR DESCRIPTION
**Pull request by wrenna-robson**
Per recent discussion on Zulip, we want to move away from using `diag` as a name token. This renames every declaration where `diag` abbreviates *diagonal* to spell it out in full, with a `@[deprecated]` alias for each.

I've tried to split it into reviewable commits by area (`Prod`/`offDiag`, `Sym2`/`Finset.diag`, `antidiag`, `CategoryTheory`, misc, leftovers) plus a small `diagaonal` typo fix. I will try and break it up into discrete sub-PRs if necessary.

Out of scope, handled in follow-ups:
- `Set.diagonal` / `Prod.diagonalSet`- to be handled in #38380
- the `Matrix.diag` / `blockDiag` / `IsDiag` constructor/extractor swap - there's one or two of these where something is being constructed/extracted or where 
- the `diag`-means-*diagram* cases (`(Co)limitPresentation.diag`, `Galois.EssSurj.quotientDiag`, `CommDiag`), which will be renamed to `diagram`

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
How about a separate PR per area or per def? And also one PR at a time, to avoid wasting your time if the maintainers change their mind. (I'd start with the `antidiag` ones, then `offDiag`, then `diag`)

**Comment by grunweg** [comment]
Thanks for doing this clean-up! With my maintainer hat on, may I ask you do to two things:
- can you link to where the discussion was had (I trust you that this is true, but right now I cannot easily find it)
- split the PR at smaller boundaries --- if your commits are already nicely split, that would be easy :-)

**Comment by wrenna-robson** [comment]
> How about a separate PR per area or per def? And also one PR at a time, to avoid wasting your time if the maintainers change their mind. (I'd start with the `antidiag` ones, then `offDiag`, then `diag`)

I would frankly find this a *lot* more unmanageable to do.

**Comment by wrenna-robson** [comment]
@grunweg Certainly: I believe this is the thread. https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/antidiagonal.20vs.20antidiag/with/622080434

I was working on #38380, entirely ignorant of this until a few days ago.

In terms of breaking up this PR: I can do that, though I will wait until I have a working build first (a lot easier to do that way). My strategy for this thus far has been to throw Claude at it because it's tedious work but essentially is just a matter of renaming things and fixing downstream issues. To be clear - I'm not using Claude to generate this text (that would be IMO quite rude)! But in my experience a big "touch-everything" PR like this is something it is quite useful to have machine-assistance with.

There are some PRs I want to do on top of this. #38380 will rename Set.diagonal and add in a new Set.diagonal to match Finseet.diagonal (err, which is currently Finset.diag). I haven't touched Matrixdiag and Matrix.diagonal in this because it is unclear exactly what they *should* be (there was some different of opinions). I think there are a few places where "diag" means "diagram" and I think it would make sense to do that, but that isn't part of this PR. This PR is *just* "rename everything called diag/offDiag and similar" (with the caveat that Function.diag becomes Prod.diagonal because it should always have been in Prod. namespace - that's my error).

Let me land this so that CI works, and then we can look at where we are, and I'll perhaps seek to break it up. I don't think it ought to be too bad to review - as long as you check the redefinitions are OK, everything else is just downstream of that.

**Comment by SnirBroshi** [comment]
> I would frankly find this a _lot_ more unmanageable to do.

> In terms of breaking up this PR: I can do that

I'm confused as to how your opinion changed that fast, but I'm happy that we all agree :)

**Comment by wrenna-robson** [comment]
> > I would frankly find this a _lot_ more unmanageable to do.
> 
> > In terms of breaking up this PR: I can do that
> 
> I'm confused as to how your opinion changed that fast, but I'm happy that we all agree :)

There's no contradiction - I would find it a lot more unmanageable, but I am trying to be a considerate community member and show willing. It just means it will take a lot, lot longer.

**Comment by wrenna-robson** [comment]
@grunweg Alright, I'm running green. If you do want this split up, how would you like that to be done? I'm minded to rebase the branch so that the history is more easily reviewable, if you're happy for it all to be on this PR.

**Comment by SnirBroshi** [comment]
Could you avoid renaming (and deprecating) any files in this PR, to not break their git history? Ideally they should only move after the declaration renames are complete, and then the old modules reintroduced in a 3rd PR.

**Comment by wrenna-robson** [comment]
> Could you avoid renaming (and deprecating) any files in this PR, to not break their git history? Ideally they should only move after the declaration renames are complete, and then the old modules reintroduced in a 3rd PR.

Ah, so maintain Diag in file names for this PR and then follow up with that later?

**Comment by wrenna-robson** [comment]
I've (alright, Claude did with my supervising gently to make it actually do the work during my morning meeting) reorged the commits so that they're more logically separate.

**Comment by wrenna-robson** [comment]
@SnirBroshi should be clear now.

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean [hunk 1]
```diff
@@ -462,7 +462,7 @@ end CartanMatrix
 structure Matrix.IsFiniteCartan {ι : Type*} [Fintype ι] [DecidableEq ι]
     (M : Matrix ι ι ℤ) : Prop where
   diag : ∀ i, M i i = 2
-  offDiag_nonpos : ∀ i j, i ≠ j → M i j ≤ 0
+  offDiagonal_nonpos : ∀ i j, i ≠ j → M i j ≤ 0
```
Comment (kim-em) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean:465]: :robot: Claude says: this is a structure field, so the rename is a hard break with no deprecation path — `⟨…, offDiag_nonpos := h, …⟩` and `hM.offDiag_nonpos` both stop working, and an `alias` only recovers the latter. The sibling field on the line above is still `diag`, so the structure now mixes both conventions.

```suggestion
  diagonal : ∀ i, M i i = 2
  offDiagonal_nonpos : ∀ i j, i ≠ j → M i j ≤ 0
```

and after `end Matrix.IsFiniteCartan`:

```lean
@[deprecated (since := "2026-09-06")]
alias Matrix.IsFiniteCartan.diag := Matrix.IsFiniteCartan.diagonal
@[deprecated (since := "2026-09-06")]
alias Matrix.IsFiniteCartan.offDiag_nonpos := Matrix.IsFiniteCartan.offDiagonal_nonpos
```

Heads up that this file has moved to `Mathlib/LinearAlgebra/Matrix/Cartan/Basic.lean` on master; it is the only merge conflict this PR currently has.

**Review by kim-em — COMMENTED** [review]
:robot: Claude says: the description says this PR renames `Mathlib/Algebra/Order/Antidiag/` to `Antidiagonal/`, but commit 70bbc05 defers that and the directory is untouched. The opening sentence is also garbled ("we want to move away from `diag` should not be used as a name token"), and the third out-of-scope bullet ends mid-sentence at "or where ".

File: Mathlib/CategoryTheory/Products/Basic.lean [hunk 2]
```diff
@@ -290,11 +290,13 @@ variable (C)
 
 /-- The diagonal functor. -/
 @[implicit_reducible, simps! obj map]
-def diag : C ⥤ C × C :=
+def diagonal : C ⥤ C × C :=
   (𝟭 C).prod' (𝟭 C)
 
 end
 
+@[deprecated (since := "2026-09-06")] alias diag := diagonal
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Products/Basic.lean:298]: :robot: Claude says: `@[simps! obj map]` means `Functor.diag_obj` and `Functor.diag_map` disappear too, and those have no aliases — `diag_obj` is used inside Mathlib (`Mathlib/CategoryTheory/Limits/Sifted.lean:111`), so it is certainly used downstream too.

```suggestion
@[deprecated (since := "2026-09-06")] alias diag := diagonal
@[deprecated (since := "2026-09-06")] alias diag_obj := diagonal_obj
@[deprecated (since := "2026-09-06")] alias diag_map := diagonal_map
```

The same gap applies to the other renamed `@[simps]` defs: `Sym2.diagElemEquiv`, `IsSubterminal.isoDiag`, `StructuredArrow`/`CostructuredArrow.ofDiagEquivalence.{functor,inverse}`, `externalProductCompDiagIso`, `OrderHom.diag`/`onDiag`, `Finset.finsuppAntidiagEquivSubtype`, `TopPair.proj₁AdjDiag`. `#check @Foo.diag_obj` against master gives the exact generated names to alias.

File: Mathlib/LinearAlgebra/RootSystem/CartanMatrix.lean [hunk 3]
```diff
@@ -191,7 +191,7 @@ lemma cartanMatrix_mul_diagonal_eq [Fintype ι] [DecidableEq ι] [P.IsRootSystem
   simpa [← algebraMap_pairingIn P ℤ i j] using
     congr_fun₂ (cartanMatrixIn_mul_diagonal_eq ℤ P.toInvariantForm b) i j
 
-lemma exists_cartanMatrix_mul_diagaonal_posDef [DecidableEq ι] [P.IsRootSystem] :
+lemma exists_cartanMatrix_mul_diagonal_posDef [DecidableEq ι] [P.IsRootSystem] :
```
Comment (kim-em) [inline Mathlib/LinearAlgebra/RootSystem/CartanMatrix.lean:194]: :robot: Claude says: these two are the only public declarations this PR removes without a deprecation — the `diagaonal` typo makes them look disposable, but they are still names people may have written.

```lean
@[deprecated (since := "2026-09-06")]
alias exists_cartanMatrix_mul_diagaonal_posDef := exists_cartanMatrix_mul_diagonal_posDef
@[deprecated (since := "2026-09-06")]
alias exists_cartanMatrix_diagaonal_mul_posDef := exists_cartanMatrix_diagonal_mul_posDef
```

File: Mathlib/CategoryTheory/Limits/Shapes/BinaryProducts/BinaryProducts.lean [hunk 4]
```diff
@@ -295,8 +309,10 @@ theorem coprod.desc_comp {V W X Y : C} [HasBinaryCoproduct X Y] (f : V ⟶ W) (g
     (h : Y ⟶ V) : coprod.desc g h ≫ f = coprod.desc (g ≫ f) (h ≫ f) := by
   ext <;> simp
 
-theorem coprod.diag_comp {X Y : C} [HasBinaryCoproduct X X] (f : X ⟶ Y) :
-    codiag X ≫ f = coprod.desc f f := by simp
+theorem coprod.diagonal_comp {X Y : C} [HasBinaryCoproduct X X] (f : X ⟶ Y) :
+    coprod.codiagonal X ≫ f = coprod.desc f f := by simp
+
+@[deprecated (since := "2026-09-06")] alias coprod.diag_comp := coprod.diagonal_comp
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Limits/Shapes/BinaryProducts/BinaryProducts.lean:315]: :robot: Claude says: the statement is about `codiagonal`, so the name should say so, matching `coprod.map_codiagonal` below.

```suggestion
theorem coprod.codiagonal_comp {X Y : C} [HasBinaryCoproduct X X] (f : X ⟶ Y) :
    coprod.codiagonal X ≫ f = coprod.desc f f := by simp

@[deprecated (since := "2026-09-06")] alias coprod.diag_comp := coprod.codiagonal_comp
```

File: Mathlib/Data/Set/Prod.lean [hunk 5]
```diff
@@ -430,7 +430,7 @@ theorem preimage_coe_coe_diagonal (s : Set α) :
   simp [Set.diagonal]
 
 @[simp]
-theorem range_diag : range Function.diag = diagonal α := by
+theorem range_diag : range Prod.diagonal = diagonal α := by
```
Comment (kim-em) [inline Mathlib/Data/Set/Prod.lean:433]: :robot: Claude says: some `diag` uses outside the stated exclusions are left behind — here `range_diag`, `diag_image` and `diag_preimage_prod{,_self}` now literally read `Prod.diagonal` in their statements. Elsewhere: `Function.toPullbackDiag` and its four lemmas, `List.mapDiagM'`, `eq_diag_path`, `IsAdjMatrix.apply_diag_ne`/`compl_apply_diag`, and the Cartan `A_diag_eq_two`/`E₆_off_diag_nonpos` family. Either rename them or add them to the out-of-scope list.

File: Mathlib/Algebra/Order/Antidiag/Finsupp.lean [hunk 6]
```diff
@@ -105,57 +125,71 @@ theorem finsuppAntidiag_insert {a : ι} {s : Finset ι}
...
   · rw [sum_mapRange_index (fun _ ↦ rfl), ← hsum, _root_.map_finsuppSum]
   · exact subset_trans (support_mapRange) hsupp
 
-lemma mapRange_finsuppAntidiag_eq {e : μ ≃+ μ'} {s : Finset ι} {n : μ} :
-    (finsuppAntidiag s n).map (mapRange.addEquiv e).toEmbedding = finsuppAntidiag s (e n) := by
+@[deprecated (since := "2026-09-06")]
+alias mapRange_finsuppAntidiag_subset := mapRange_finsuppAntidiagonal_subset
+
+lemma mapRange_finsuppAntidiagonal_eq {e : μ ≃+ μ'} {s : Finset ι} {n : μ} :
+    (finsuppAntidiagonal s n).map (mapRange.addEquiv e).toEmbedding =
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Antidiag/Finsupp.lean:164]: (side question: shouldn't this be called `map_finsuppAntidiagonal_mapRange_eq` or something? at least mentioning `map`?)

File: Mathlib/Algebra/Order/Antidiag/FinsuppEquiv.lean [hunk 7]
```diff
@@ -38,44 +39,61 @@ variable [DecidableEq ι] [AddCommMonoid μ] [HasAntidiagonal μ] [DecidableEq 
   {n : μ}
 
 variable (s n) in
-/-- The equivalence between `Finset.finsuppAntidiag s n` and the subtype of `s →₀ μ` whose sum is
-`n`. -/
+/-- The equivalence between `Finset.finsuppAntidiagonal s n` and the subtype of `s →₀ μ`
+whose sum is `n`. -/
 @[simps]
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Antidiag/FinsuppEquiv.lean:44]: missing deprecations generated by simps

File: Mathlib/Basic/Finite/Prod.lean [hunk 8]
```diff
@@ -92,8 +92,10 @@ instance fintypeProd (s : Set α) (t : Set β) [Fintype s] [Fintype t] :
     Fintype (s ×ˢ t : Set (α × β)) :=
   Fintype.ofFinset (s.toFinset ×ˢ t.toFinset) <| by simp
 
-instance fintypeOffDiag (s : Set α) [Fintype s] : Fintype s.offDiag :=
-  Fintype.ofFinset s.toFinset.offDiag <| by simp
+instance fintypeOffDiagonal (s : Set α) [Fintype s] : Fintype s.offDiagonal :=
+  Fintype.ofFinset s.toFinset.offDiagonal <| by simp
+
+@[deprecated (since := "2026-09-06")] alias fintypeOffDiag := fintypeOffDiagonal
```
Comment (themathqueen) [inline Mathlib/Basic/Finite/Prod.lean:98]: no need since it's an instance (there was also one other instance deprecation you should remove somewhere, I can try to find it again if you can't)

File: Mathlib/Topology/Category/TopPair.lean [hunk 9]
```diff
@@ -96,10 +96,12 @@ def incl : TopCat.{u} ⥤ TopPair.{u} where
 
 /-- The functor from topological spaces to topological pairs that sends a space X to the identity
 morphism on X. -/
-abbrev diag : TopCat.{u} ⥤ TopPair.{u} where
+abbrev diagonal : TopCat.{u} ⥤ TopPair.{u} where
```
Comment (themathqueen) [inline Mathlib/Topology/Category/TopPair.lean:99]: there's so many `.diagonal`s, _maybe_ we should protect them?

File: Mathlib/Topology/Category/TopPair.lean [hunk 10]
```diff
@@ -110,11 +112,13 @@ def inclAdjProj₁ : incl ⊣ proj₁ where
 
 /-- The projection functor to the first component is left adjoint to the diagonal functor. -/
 @[simps]
```
Comment (themathqueen) [inline Mathlib/Topology/Category/TopPair.lean:114]: again here, missing deprecations from simps lemmas?

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean [hunk 11]
```diff
@@ -217,7 +217,10 @@ def inr : B →ₜ* (A × B) :=
 
 /-- The continuous homomorphism given by the diagonal embedding. -/
 @[to_additive (attr := simps!) /-- The continuous homomorphism given by the diagonal embedding. -/]
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:219]: and again here, missing deprecations?

File: Mathlib/Order/Hom/Basic.lean [hunk 12]
```diff
@@ -401,13 +401,17 @@ def prodₘ : (α →o β) →o (α →o γ) →o α →o β × γ :=
 
 /-- Diagonal embedding of `α` into `α × α` as an `OrderHom`. -/
 @[simps!]
```
Comment (themathqueen) [inline Mathlib/Order/Hom/Basic.lean:403]: missing deprecations?

File: Mathlib/Order/Hom/Basic.lean [hunk 13]
```diff
@@ -401,13 +401,17 @@ def prodₘ : (α →o β) →o (α →o γ) →o α →o β × γ :=
...
-def diag : α →o α × α :=
+def diagonal : α →o α × α :=
   id.prod id
 
+@[deprecated (since := "2026-09-06")] alias diag := diagonal
+
 /-- Restriction of `f : α →o α →o β` to the diagonal. -/
 @[simps! +simpRhs]
```
Comment (themathqueen) [inline Mathlib/Order/Hom/Basic.lean:410]: missing deprecations?

File: Mathlib/Logic/Function/Basic.lean [hunk 14]
```diff
@@ -27,6 +27,16 @@ universe u v w x
...
 
+@[deprecated (since := "2026-09-06")] protected alias diag := Prod.diagonal
+@[deprecated (since := "2026-09-06")] alias diag_def := Prod.diagonal_def
+@[deprecated (since := "2026-09-06")] alias diag_apply := Prod.diagonal_apply
+@[deprecated (since := "2026-09-06")] alias diag_injective := Prod.diagonal_injective
+@[deprecated (since := "2026-09-06")] alias fst_comp_diag := Prod.fst_comp_diagonal
+@[deprecated (since := "2026-09-06")] alias snd_comp_diag := Prod.snd_comp_diagonal
+@[deprecated (since := "2026-09-06")] alias diag_comp := Prod.diagonal_comp
+@[deprecated (since := "2026-09-06")] alias map_comp_diag := Prod.map_comp_diagonal
+@[deprecated (since := "2026-09-06")] alias swap_comp_diag := Prod.swap_comp_diagonal
```
Comment (themathqueen) [inline Mathlib/Logic/Function/Basic.lean:38]: are these not in the wrong file?

File: Mathlib/LinearAlgebra/RootSystem/CartanMatrix.lean [hunk 15]
```diff
@@ -205,9 +205,9 @@ lemma exists_cartanMatrix_mul_diagaonal_posDef [DecidableEq ι] [P.IsRootSystem]
     rw [← LinearMap.BilinForm.posDef_toQuadraticMap_iff_matrix _ _ aux]
     simpa using P.posRootForm_rootFormIn_posDef ℤ
 
-lemma exists_cartanMatrix_diagaonal_mul_posDef [DecidableEq ι] [P.IsRootSystem] :
+lemma exists_cartanMatrix_diagonal_mul_posDef [DecidableEq ι] [P.IsRootSystem] :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/RootSystem/CartanMatrix.lean:208]: missing deprecations?

File: Mathlib/LinearAlgebra/Matrix/Diagonal.lean [hunk 16]
```diff
@@ -79,7 +79,7 @@ section Field
 variable {m : Type*} [Fintype m] {K : Type u} [Field K]
 
 theorem rank_diagonal [DecidableEq m] [DecidableEq K] (w : m → K) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Diagonal.lean:81]: I would call this `rank_toLin'_diagonal` otherwise it would read like it's about `LinearMap.diagonal`?

**Review by themathqueen — COMMENTED** [review]
Here are a few comments (I still have 25 files left to check out, I'll do this later today).

**Comment by themathqueen** [comment]
According to the declarations-diff https://github.com/leanprover-community/mathlib4/pull/43494#issuecomment-5559863184, there's a lot of missing deprecations in CategoryTheory (probably generated by `simps`?). Can you check those please?

File: Mathlib/Topology/Category/TopPair.lean (hunk 9 above)
Comment (wrenna-robson) [reply Mathlib/Topology/Category/TopPair.lean:99]: Don't disagree but that would be a different PR.

**Comment by wrenna-robson** [comment]
Work has been keeping me busy this week. I have fixed the description issues Kim mentioned - I will set to fixing the other issues mentioned with the help of Claude on Sunday.
